US06660744B1
A solution of 4-bromoaniline (5.48 g, 0.0318 mol) and phenylsuccinic anhydride (5.89 g, 0.0334 mol) in anhydrous benzene (80 mL) was heated at reflux for one and a half hours. The mixture was cooled to ambient temperature and concentrated under reduced pressure. To the residue, acetyl chloride (60 mL) was added and the solution was heated at reflux for one and a half hours. The reaction mixture was cooled to ambient temperature and the precipitate collected by filtration, washed with diethyl ether and dried to yield 1-(4-bromophenyl)-3-phenyl-2,5-pyrrolidinedione (8.7 g, 0.0264 mol) as an off-white solid.

reactant | 4-bromoaniline | 0.0318 mol, 5.48 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | phenylsuccinic anhydride | 0.0334 mol, 5.89 g | C1(=CC=CC=C1)C1C(=O)OC(C1)=O | C10H8O3
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | 1-(4-bromophenyl)-3-phenyl-2,5-pyrrolidinedione | 0.0264 mol, 8.7 g | BrC1=CC=C(C=C1)N1C(C(CC1=O)C1=CC=CC=C1)=O | C16H12BrNO2
